US08232283B2
2-(2-Chloro-4-nitrophenyl)-N-methoxyacetamide (49.3 mmol) and 4-chloro-2-(methylthio)pyrimidine-5-carbaldehyde (41.2 mmol) were dissolved in DMF (600 mL). The solution was cooled to 0° C., and K2CO3 (91 mmol) was added in one poroom temperatureion. The mixture was stirred at 0° C. for 2 h and then at room temperature for 48 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to 60 mL. Water (600 mL) was added. The precipitate was filtered, washed twice with EtOH and dried. The by-product (Z) -6-(2-chloro-4-nitrophenyl)-2-(methylthio)-7H-pyrano[2,3-d]pyrimidin-7-one O-methyl oxime was separated by reflux of the mixture for 4 h in EtOH and hot filtration of the suspension through a sintered glass funnel. Evaporation of the filtrate and drying gave 6-(2-chloro-4-nitrophenyl)-8-methoxy-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one as a solid (63%).

reactant | 2-(2-Chloro-4-nitrophenyl)-N-methoxyacetamide | 49.3 mmol | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)NOC | C9H9ClN2O4
reactant | 4-chloro-2-(methylthio)pyrimidine-5-carbaldehyde | 41.2 mmol | ClC1=NC(=NC=C1C=O)SC | C6H5ClN2OS
reactant | K2CO3 | 91 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | 6-(2-chloro-4-nitrophenyl)-8-methoxy-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 63% | ClC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=C2)SC)N(C1=O)OC | C15H11ClN4O4S
